US07276606B2
(2-Chloro-pyridin-3-yl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 2-chloronicotinoyl chloride, and indole according to GP 2. Yield, 55%. 1H-NMR (DMSO-d6): δ=6.18 (s, br., 1H), 6.37 (d, J=7.9 Hz, 1H), 6.79 (t, J≈7 Hz, 1H), 7.01-7.17 (m, 4H), 7.23-7.30 (m, 1H), 7.36-7.62 (m, 5H), 7.88 (s, br., 1H), 7.94 (d, J=7.7 Hz, 1H), 8.07 (d, J=7.1 Hz, 1H), 8.37 (d, J=4.6 Hz, J=1.3 Hz, 1H), 10.72 (s, 1H); (+)-ESI-MS: m/z=436 [M(35Cl)+H]+, 319 [M(35Cl)-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 2-chloronicotinoyl chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (2-Chloro-pyridin-3-yl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | ClC1=NC=CC=C1C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C27H18ClN3O
